US05733914
To a suspension of NaH (60% in mineral oil, 32 mg) in 6 mL of dimethylformamide was added 2-amino-6-(2,6-dichlorophenyl)-pyrido[2,3-d]pyrimidin-7(8H)-one (200 mg, 0.65 mmol) and the mixture heated to 70° C. In a second flask containing triethyl amine (220 μL, 1.59 mmol) in 4 mL of dimethylformamide was added 4-picolyl chloride hydrochloride (137 mg, 0.84 mmol). This dark red mixture was added to the above solution of the sodium salt of 2-amino-6-(2,6-dichlorophenyl)-pyrido[2,3-d]pyrimidin-7(8H)-one. The mixture was heated to 70° C., then cooled to room temperature. The mixture was poured into 20 mL of ice water, and the resulting precipitate was removed by filtration and washed with water. This solid was washed with 10% methanol in ethyl acetate to provide 96 mg of crude product. The filtrate was concentrated to provide an additional 77 mg of crude product. An analytical sample was obtained by purification by flash chromatography, eluting with a gradient of ethyl acetate to 10% methanol in ethyl acetate to provide 2-amino-6-(2,6-dichlorophenyl)-8-pyridin-4-ylmethyl-8H-pyrido[2,3-d]pyrimidin-7-one; mp 268°-270° C. dec.

reactant | NaH | 32 mg | [H-].[Na+]
reactant | 2-amino-6-(2,6-dichlorophenyl)-pyrido[2,3-d]pyrimidin-7(8H)-one | 0.65 mmol, 200 mg | NC=1N=CC2=C(N1)NC(C(=C2)C2=C(C=CC=C2Cl)Cl)=O | C13H8Cl2N4O
reactant | triethyl amine | 1.59 mmol, 220 μL | C(C)N(CC)CC | C6H15N
reactant | 4-picolyl chloride hydrochloride | 0.84 mmol, 137 mg | Cl.N1=CC=C(C=C1)CCl
reactant | sodium | [Na] | Na
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 2-amino-6-(2,6-dichlorophenyl)-8-pyridin-4-ylmethyl-8H-pyrido[2,3-d]pyrimidin-7-one | NC=1N=CC2=C(N1)N(C(C(=C2)C2=C(C=CC=C2Cl)Cl)=O)CC2=CC=NC=C2 | C19H13Cl2N5O
